US08003806B2
(b) Methyl (3R)-3-(2-amino-4-nitroanilino)-3-phenylpropanoate
To a solution of methyl (3R)-3-(2,4-dinitroanilino)-3-phenylpropanoate (3.14 g, 9.1 mmol) in a mixture of ethanol (100 mL) and water (10 mL) was added ammonium formate (2.3 g, 36 mmol) and palladium on carbon (300 mg, 10% w/w Pd). The mixture was stirred at room temperature for 2 hours, then filtered through a pad of Celite®, evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (95:5), to afford the title compound, [LCMS (Method C, Mobile Phase I) RT=2.94 mins, MH+ 316].

reactant | methyl (3R)-3-(2,4-dinitroanilino)-3-phenylpropanoate | 9.1 mmol, 3.14 g | [N+](=O)([O-])C1=C(N[C@H](CC(=O)OC)C2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C16H15N3O6
reactant | ammonium formate | 36 mmol, 2.3 g | C(=O)[O-].[NH4+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | Methyl (3R)-3-(2-amino-4-nitroanilino)-3-phenylpropanoate | NC1=C(N[C@H](CC(=O)OC)C2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C16H17N3O4
